### ISSUE TITLE
Awkward elaboration order in calc *tactic*

### ISSUE THREAD

**Issue by gebner** [leanprover/lean4#2095]
```lean
-- works
example : 3 < 5 :=
  calc
    _ < 4 := by decide
    _ < _ := by decide

-- fails
example : 3 < 5 := by
  calc
    _ < 4 := by decide
    _ < _ := by decide
```

In the second tactic example, the `decide` tactic is called before the type is unified with the goal.
